US08232410B2
(a) Synthesis of 1-amino-3-diethylamino-4,6-dinitrobenzene
To a solution of 2,4-dinitro-5-fluoroaniline (1.6 g, 8.0 mmol) in 20 mL of THF, a mixture of DIPEA (1.1 g, 8.8 mmol) and diethylamine (644 mg, 8.8 mmol) in 5 mL of THF was added slowly. The reaction mixture was stirred at room temperature for 1 h. Water (100 mL) was added to give the desired product as a yellow precipitate. The product was collected by filtration and washed with water (200 mL). The filtrate was concentrated to dryness in vacuo to give the desired product (1.8 g, 90% yield) as a bright yellow solid: 1H-NMR (300 MHz, CDCl3) δ 1.96 (t, 6H, J=7.2 Hz), 3.24 (q, 4H, J=7.2 Hz), 6.08 (s, 1H), 8.75 (s, 1H); 13C NMR (75 MHz, CDCl3) δ12.1, 45.7, 102.7, 123.3, 128.2, 131.6, 147.8, 149.4; ESI MS m/z 255.1 [M+H]+.

reactant | 2,4-dinitro-5-fluoroaniline | 8.0 mmol, 1.6 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)[N+](=O)[O-])F | C6H4FN3O4
reactant | DIPEA | 8.8 mmol, 1.1 g | CCN(C(C)C)C(C)C | C8H19N
reactant | diethylamine | 8.8 mmol, 644 mg | C(C)NCC | C4H11N
reactant | Water | 100 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-amino-3-diethylamino-4,6-dinitrobenzene | NC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])N(CC)CC | C10H14N4O4
